US04588733
A suspension was prepared from 23.5 g of 2,5-bis(methylsulfonyl)pyridine and 200 ml of methanol and this was stirred rapidly under nitrogen while 24 ml of 25% sodium methoxide/methanol was added. This mixture was warmed to 50° C. for 20 minutes to give a homogeneous black solution. The solvent was removed by evaporation under reduced pressure and the resulting slurry was partitioned between ethyl acetate and water. The ethyl acetate layer was washed with aqueous saturated sodium chloride solution and dried over magnesium sulfate. The mixture was treated with carbon and filtered through Celite to give a pale yellow filtrate. Concentration of the filtrate under reduced pressure gave a pale yellow oil which solidified on cooling. This was recrystallized from 2-propanol to give 2-methoxy-5-(methylsulfonyl)pyridine as colorless crystals melting at about 85°-86.5° C. Bromination of this compound according to the procedure described in Example 2 gave 3-bromo-2-methoxy-5-(methylsulfonyl)pyridine melting at about 148.5°-150.5° C.

reactant | 2,5-bis(methylsulfonyl)pyridine | 23.5 g | CS(=O)(=O)C1=NC=C(C=C1)S(=O)(=O)C | C7H9NO4S2
reactant | sodium methoxide methanol | 24 ml | C[O-].[Na+].CO
solvent | methanol | 200 ml | CO | CH4O
product | 2-methoxy-5-(methylsulfonyl)pyridine | COC1=NC=C(C=C1)S(=O)(=O)C | C7H9NO3S
